US09302989B2
2-(4-Amino-benzoyl)-cyclohex-1-enecarboxylic acid
To a suspension of 2.2 g magnesium turnings (83.5 mmol) in 15 ml tetrahydrofuran were added 0.1 mL 1,2-dibromethane to start the Grignard reaction followed by slow addition of 13.0 g 2-(4-bromphenyl)-1,1,1,3,3,3-hexamethyldisilazane (41 mmol) in 70 mL tetrahydrofuran over a period of 20 minutes at room temperature with subsequent stirring for further 30 minutes. The resulting mixture was added dropwise at −78° C. to a solution of 4,5,6,7-tetrahydro-isobenzofuran-1,3-dione (5.6 g) in 70 mL tetrahydrofuran. The reaction mixture was slowly warmed to room temperature. Sulfuric acid (2 mL, 1 M) was added and the solvent was removed under reduced pressure. The residue was added carefully to 20 mL of 0.5 M sulfuric acid solution and the desired product started to precipitate and was extracted with ethyl acetate. Acidification of the water phase and extraction with ethyl acetate was continued until pH˜4-5 (at least three times). The combined organic phases were washed with brine, dried over magnesium sulfate, filtered and the solvent was subsequently evaporated under reduced pressure. Purification of the raw material by column chromatography with ethyl acetate/hexane 1:1 and subsequently 100% ethyl acetate resulted in the desired product.

reactant | magnesium | 83.5 mmol, 2.2 g | [Mg] | Mg
reactant | 1,2-dibromethane | 0.1 mL | BrCCBr | C2H4Br2
reactant | 2-(4-bromphenyl)-1,1,1,3,3,3-hexamethyldisilazane | 41 mmol, 13.0 g | BrC1=CC=C(C=C1)N([Si](C)(C)C)[Si](C)(C)C | C12H22BrNSi2
reactant | 4,5,6,7-tetrahydro-isobenzofuran-1,3-dione | 5.6 g | C1(OC(C=2CCCCC12)=O)=O | C8H8O3
reactant | Sulfuric acid | 1 M, 2 mL | S(O)(O)(=O)=O | H2O4S
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 70 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 70 mL | O1CCCC1 | C4H8O
product | 2-(4-Amino-benzoyl)-cyclohex-1-enecarboxylic acid | NC1=CC=C(C(=O)C2=C(CCCC2)C(=O)O)C=C1 | C14H15NO3
